US08975254B2
c) 5-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile
The title compound was prepared from 2-nitro-5-(1H-pyrazol-5-yl)benzonitrile (1.00 g) and 2-(tert-butoxycarbonylamino)ethyl methanesulfonate (1.45 g) using the method of Example 37(c). Yield 0.32 g (as HCl-salt). 1H-NMR (400 MHz; d6-DMSO): δ 3.34 (t, 2H), 4.50 (t, 2H), 7.15 (d, 1H), 7.99 (d, 1H), 8.21 (br s, 2H), 8.39 (dd, 1H), 8.45 (d, 1H), 8.61 (d, 1H).

reactant | 2-nitro-5-(1H-pyrazol-5-yl)benzonitrile | 1.00 g | [N+](=O)([O-])C1=C(C#N)C=C(C=C1)C1=CC=NN1 | C10H6N4O2
reactant | 2-(tert-butoxycarbonylamino)ethyl methanesulfonate | 1.45 g | CS(=O)(=O)OCCNC(=O)OC(C)(C)C | C8H17NO5S
product | 5-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | NCCN1N=C(C=C1)C=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C12H11N5O2
